
*write driver circuit

.include osu018.lib

*inverters for enable and data input
m1 bl_bar din vdd vdd CMOSP w=0.8u l=0.18u
m2 bl_bar din gnd gnd CMOSN w=0.4u l=0.18u
m3 we_bar we vdd vdd CMOSP w=0.8u l=0.18u
m4 we_bar we gnd gnd CMOSN w=0.4u l=0.18u

*tristate for BL
m5 int1 bl_bar vdd vdd CMOSP w=0.8u l=0.18u
m6 bl we int1 vdd CMOSP w=0.8u l=0.18u
m7 bl we_bar int2 gnd CMOSN w=0.4u l=0.18u
m8 int2 bl_bar gnd gnd CMOSN w=0.4u l=0.18u

*tristate for BR
m9 int3 din vdd vdd CMOSP w=0.8u l=0.18u
m10 br we int3 vdd CMOSP w=0.8u l=0.18u
m11 br we_bar int4 gnd CMOSN w=0.4u l=0.18u
m14 int4 din gnd gnd CMOSN w=0.4u l=0.18u

*c1 bl gnd 20f
*c2 br gnd 20f

v1  din gnd pulse(0 1.8V 0 100ps 100ps 10ns 20ns)
v2  vdd gnd 1.8v
v3  we gnd pulse(0 1.8V 0 100ps 100ps 50ns 100ns)
.tran 10e-09 100e-09 0e-09
.control
run

plot v(we)+9 v(din)+6 v(bl)+3 v(br)

.endc
.end
